US05965539
E. 4-Nitro-2-phenylbenzoyl-(S)-leucine methyl ester
This compound was prepared through the coupling of 4-nitro-2-phenylbenzoic acid with (L)-leucine methyl ester hydrochloride as for the preparation of the methionine derivative (see Example 26, section A). 1H NMR (CDCl3) δ 8.24-8.26 (m, 2H), 7.86 (d, 8.7 Hz, 1H), 7.41-7.46 (m, 5H), 5.71 (d, 7.4 Hz, 1H), 4.57 (ddd, 1H), 3.67 (s, 3H), 1.37-1.46 (m, 1H), 1.08-1.25 (m, 2H), 0.78 (dd, 6H).

reactant | 4-nitro-2-phenylbenzoic acid | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C13H9NO4
reactant | (L)-leucine methyl ester hydrochloride | Cl.COC([C@@H](N)CC(C)C)=O
reactant | methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
product | 4-Nitro-2-phenylbenzoyl-(S)-leucine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CC(C)C)=O | C20H22N2O5
